US06326386B1
3-Chloro-N-isopropyl-N-(3-oxo-3-pyrrolidin-1-yl-propyl)-5-[2-(pyridin-4-ylamino)-ethoxy]-benzamide;
3-Chloro-N-isopropyl-N-(3-morpholin-4-yl-3-oxo-propyl)-5-[2-(pyridin-4-ylamino)-ethoxy]-benzamide mixture with 3-({3-chloro-5-[2-(pyridin-4-ylamino)-ethoxy]-benzoyl}-isopropyl-amino)-propionic acid (1:2);

reactant | 3-Chloro-N-isopropyl-N-(3-morpholin-4-yl-3-oxo-propyl)-5-[2-(pyridin-4-ylamino)-ethoxy]-benzamide | ClC=1C=C(C(=O)N(CCC(=O)N2CCOCC2)C(C)C)C=C(C1)OCCNC1=CC=NC=C1 | C24H31ClN4O4
reactant | 3-({3-chloro-5-[2-(pyridin-4-ylamino)-ethoxy]-benzoyl}-isopropyl-amino)-propionic acid | ClC=1C=C(C(=O)N(CCC(=O)O)C(C)C)C=C(C1)OCCNC1=CC=NC=C1 | C20H24ClN3O4
product | 3-Chloro-N-isopropyl-N-(3-oxo-3-pyrrolidin-1-yl-propyl)-5-[2-(pyridin-4-ylamino)-ethoxy]-benzamide | ClC=1C=C(C(=O)N(CCC(N2CCCC2)=O)C(C)C)C=C(C1)OCCNC1=CC=NC=C1 | C24H31ClN4O3
